US06914074B2
6-(2-Chloro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 3-chloro-4-(6-methoxy-2-naphthyl)phenol (2.4 g, 8.43 mmol) with boron tribromide (21.9 mL of 1.0 M solution in CH2Cl2, 21.9 mmol) according to method D to yield 2.1 g (92%) of a yellowish solid: mp 209-210° C.; 1H NMR (DMDO-d6): δ 6.86 (1H, dd, J=8.42 Hz, J=2.45 Hz), 6.97 (1H, d, 2.41 Hz), 7.11 (1H, dd, J=8.78 Hz, J=2.35 Hz), 7.16 (1H, d, J=2.15 Hz), 7.30 (1H, d, J=8.40 Hz), 7.42 (1H, dd, J=8.51 Hz, J=1.71 Hz), 7.71 (1H, d, J=8.59 Hz), 7.76 (1H, s), 7.80 (1H, d, J=8.82 Hz), 9.82 (1H, s), 10.01 (1H,s); 13C NMR (DMDO-d6): δ 108.45, 114.79, 116.21, 118.90, 125.53, 127.43, 127.77, 127.92, 129.56, 130.70, 131.73, 132.34, 133.18, 133.52, 155.56, 157.46; MS (ESI) m/z2691271 (M−H)−.

reactant | 3-chloro-4-(6-methoxy-2-naphthyl)phenol | 8.43 mmol, 2.4 g | ClC=1C=C(C=CC1C1=CC2=CC=C(C=C2C=C1)OC)O | C17H13ClO2
reactant | boron tribromide | 21.9 mmol, 1.0 M, 21.9 mL | B(Br)(Br)Br | BBr3
product | 6-(2-Chloro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC(=C1)O)C=1C=C2C=CC(=CC2=CC1)O | C16H11ClO2
